US06809199B2
Step A: 2-(2,4-difluorophenyl)-3-methyl-5-nitropyridine
To a stirred solution of 2-chloro-3-methyl-5-nitropyridine (prepared according to the procedure of Hawkins and Roe, J. Am. Chem. Soc., page 330, 1948) (17.6 g, 102 mmol, 1 eq.) in DMF (220 mL) was added 2,4-difluorobenzeneboronic acid (16.16 g, 102 mmol, 1 eq.) followed by Cs2CO3 (41.1 g, 122.7 mmol, 1.2 eq). The mixture was degassed with argon. To the mixture was added tetrakis(triphenylphosphine)palladium(0) (2.5 g, 2 mmol, 0.02 eq). The mixture was degassed with argon and then heated to 100° C. under argon. After 18 h the mixture was cooled. The mixture was filtered and the filtrate concentrated under reduced pressure. The filtrate was partitioned between water and ethyl acetate. The aqueous layer was extracted several times with ethyl acetate. The organic extracts were combined, dried over anhydrous Na2SO4, filtered and concentrated. The material was purified by flash column chromatography eluting with 5:1 hekanes/acetone giving 7.5 g 2-(2,4-difluorophenyl)-3-methyl-5-nitropyridine. Mass spectrum (ESI) 251.3 (M+1). 1H NMR (500 MHz, CDCl3) δCHCl3: 9.35 (1H, s); 8.42 (1H, s); 7.47 (1H,m); 7.07 (1H, m); 6.97 (1H, m); 2.41 (3H, s).

reactant | 2-chloro-3-methyl-5-nitropyridine | ClC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5ClN2O2
reactant | 2,4-difluorobenzeneboronic acid | 102 mmol, 16.16 g, 1 eq. | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | Cs2CO3 | 122.7 mmol, 41.1 g, 1.2 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 220 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2 mmol, 2.5 g, 0.02 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2,4-difluorophenyl)-3-methyl-5-nitropyridine | FC1=C(C=CC(=C1)F)C1=NC=C(C=C1C)[N+](=O)[O-] | C12H8F2N2O2
